US07504513B2
In a similar manner as described for Example 53, 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid (41 mg, 0.1 mmol) and 4-aminopyrimidine (9.5 mg, 0.1 mmol, Aldrich) gave 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid pyrimidin-4-ylamide (34.3 mg, 69.7%) as a white solid. MS m/z 493 (M+1).

reactant | 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid | 0.1 mmol, 41 mg | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C(=C2)OC)OC | C19H14ClN3O4S
reactant | 4-aminopyrimidine | 0.1 mmol, 9.5 mg | NC1=NC=NC=C1 | C4H5N3
product | 4-(3-Chloro-phenyl)-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid pyrimidin-4-ylamide | 34.3 mg, 69.7% | N1=CN=C(C=C1)NC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)C2=CC(=CC=C2)Cl | C23H17ClN6O3S
